US06043248
4-Amino-6-chloro-2-mercapto-pyrimidine mesylate salt (1.79 g, 6.94 mmole) is dissolved in 12 ml dry dimethylformamide in a 50 ml one neck round bottom flask under nitrogen. The solution is treated with 60% sodium hydride (605 mg, 15.1 mmole) (exotherm) and the mixture is stirred one hour. 3-(1-chloroethyl)-isoquinoline (1.33 g, 6.94 mmole) in 2×3 ml dry dimethylformamide, is added to the reaction and the mixture is stirred 6 hours at room temperature. The reaction mixture is poured into 300 ml water and is extracted with 3×100 ml ethyl acetate. The combined organics are backwashed with 4×50 ml 50% saturated sodium chloride. The organics are dried over potassium carbonate and are concentrated in vacuo to a yellow oil. The crude material is chromatographed over 75 g silica gel (230-400 mesh), eluting with 40% acetone/hexane while collecting 9 ml fractions. Fractions 26-39 are combined and concentrated to afford 1.26 g (57%) of 4-Amino-6-chloro-2-(1-(3-isoquinolyl)ethyl)thio-pyrimidine as a white solid.

reactant | 4-Amino-6-chloro-2-mercapto-pyrimidine mesylate salt | 6.94 mmole, 1.79 g | S(C)(=O)(=O)O.NC1=NC(=NC(=C1)Cl)S
reactant | sodium hydride | 15.1 mmole, 605 mg | [H-].[Na+]
reactant | 3-(1-chloroethyl)-isoquinoline | 6.94 mmole, 1.33 g | ClC(C)C=1N=CC2=CC=CC=C2C1 | C11H10ClN
reactant | water | 300 ml | O | H2O
solvent | dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 4-Amino-6-chloro-2-(1-(3-isoquinolyl)ethyl)thio-pyrimidine | 1.26 g, 57% | NC1=NC(=NC(=C1)Cl)SC(C)C=1N=CC2=CC=CC=C2C1 | C15H13ClN4S
